US08648087B2
Step A: Preparation of 5-(2-methoxyethoxy)quinazolin-4-ol:
To a solution of 2-methoxyethanol (0.528 ml, 6.70 mmol) in DMA (6 mL) was slowly added 514 mg of a 60% dispersion of NaH (0.308 g, 12.8 mmol), and the reaction mixture was stirred at room temperature for 30 minutes. 5-Fluoroquinazolin-4(3H)-one (1.0 g, 6.09 mmol) was added and the reaction mixture was heated at 80° C. for 2 hours. The reaction was concentrated and the residue was suspended in EtOH (75 mL) and then filtered through GF/F paper. The filtrate was concentrated to afford the desired product as a yellow solid.

reactant | 2-methoxyethanol | 6.70 mmol, 0.528 ml | COCCO | C3H8O2
reactant | NaH | 12.8 mmol, 0.308 g | [H-].[Na+]
reactant | 5-Fluoroquinazolin-4(3H)-one | 6.09 mmol, 1.0 g | FC1=C2C(NC=NC2=CC=C1)=O | C8H5FN2O
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
product | 5-(2-methoxyethoxy)quinazolin-4-ol | COCCOC1=C2C(=NC=NC2=CC=C1)O | C11H12N2O3
